US06130239
Propylene oxide (4.80 g, 82 mmol) (Aldrich) was added to a solution of propargylamine (9.06 g, 164 mmol) in methanol (30 mL) at room temperature. Mixture was stirred for 16 h then concentrated under reduced pressure. The residue was dissolved in dichloromethane (60 mL). A solution of di-tert-butyl dicarbonate (16.16 g, 74 mmol) in dichloromethane (10 mL) was added dropwise at room temperature with magnetic stirring. After 4 h, the mixture was diluted with ether (200 mL) and extracted with aqueous 1N hydrochloric acid (2×100 mL) and saturated aqueous sodium bicarbonate solution (100 mL). The aqueous layers were washed with ether (200 mL). The organic layers were combined, dried (MgSO4), filtered, and concentrated. The residue was purified by flash chromatography (Biotage 40M, ethyl acetate - hexanes, 1:3, V/V, as solvent, 25 mL/fraction) to give pure N-Boc-1-prop-2-ynylamino-propan-2-ol. (Yield 5.25 g, 30%).

reactant | Propylene oxide | 82 mmol, 4.80 g | C1C(C)O1 | C3H6O
reactant | propargylamine | 164 mmol, 9.06 g | C(C#C)N | C3H5N
reactant | di-tert-butyl dicarbonate | 74 mmol, 16.16 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 30 mL | CO | CH4O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ether | 200 mL | CCOCC | C4H10O
product | N-Boc-1-prop-2-ynylamino-propan-2-ol | C(=O)(OC(C)(C)C)N(CC(C)O)CC#C | C11H19NO3
